US08202873B2
Dissolve 2-chloro-3-iodopyridine (4.00 g, 16.74 mmol) in anhydrous toluene (25 mL). Add piperazine-1-carboxylic acid t-butyl ester (2.96 g, 15.90 mmol), followed by palladium acetate (0.113 g, 0.50 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.313 g, 0.502 mmol), triethylamine (0.034 g, 0.047 mL, 0.335 mmol) and cesium carbonate (27.3 g, 83.7 mmol). Heat at reflux for 18 hr. Concentrate and partition the residue between DCM and a saturated solution of sodium bicarbonate. Extract the aqueous phase twice with DCM and once with ethyl acetate. Dry the combined organic extracts (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 5:95 to 20:80 ethyl acetate:hexanes), to give 4-(2-Chloropyridin-3-yl)-piperazine-1-carboxylic acid t-butyl ester (54%). MS (ES): m/z=298 [M+H].

reactant | 2-chloro-3-iodopyridine | 16.74 mmol, 4.00 g | ClC1=NC=CC=C1I | C5H3ClIN
reactant | piperazine-1-carboxylic acid t-butyl ester | 15.90 mmol, 2.96 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.502 mmol, 0.313 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | triethylamine | 0.335 mmol, 0.047 mL, 0.034 g | C(C)N(CC)CC | C6H15N
reactant | cesium carbonate | 83.7 mmol, 27.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.50 mmol, 0.113 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(2-Chloropyridin-3-yl)-piperazine-1-carboxylic acid t-butyl ester | 54% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CC1)Cl | C14H20ClN3O2
